US05756508
A mixture of 10 g of 1-benzyl-3-methyl-4-oxopiperidine and 8 mL of methyl iodide in 100 mL of acetone was stirred at 25° to 30° C. for 6 days then concentrated under reduced pressure to dryness. Drying under vacuum overnight gave 17 g of 1-methyl-1-benzyl-3-methyl-4-oxopiperidinium iodide as a beige foam.

reactant | 1-benzyl-3-methyl-4-oxopiperidine | 10 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
reactant | methyl iodide | 8 mL | CI | CH3I
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 1-methyl-1-benzyl-3-methyl-4-oxopiperidinium iodide | 17 g | [I-].C[N+]1(CC(C(CC1)=O)C)CC1=CC=CC=C1 | InChI=1S/C14H20NO.HI/c1-12-10-15(2,9-8-14(12)16)11-13-6-4-3-5-7-13;/h3-7,12H,8-11H2,1-2H3;1H/q+1;/p-1
